US07576215B2
2-[4-({[3-(3-BENZOYL-8-METHYLQUINOLIN-4-YL)PHENYL]AMINO}METHYL)PHENYL]-3-PHENYLPROPANOIC ACID
A mixture of (4-{[3-(3-benzoyl-8-methyl-quinolin-4-yl)-phenylamino]-methyl}-phenyl)-acetic acid (0.04 g, 0.08 mmol), benzyl bromide (0.12 g, 0.8 mmol), and cesium carbonate (0.33 g, 1 mmol) in 5 mL of DMF was stirred at room temperature for 2 h. The reaction was quenched with water and extracted with ethyl acetate. The combined organics were washed with water, dried over magnesium sulfate and concentrated. The crude ester was treated with LiOH followed by semi-preparative HPLC purification to give the title compound. MS (ESI) m/z 577.

reactant | (4-{[3-(3-benzoyl-8-methyl-quinolin-4-yl)-phenylamino]-methyl}-phenyl)-acetic acid | 0.08 mmol, 0.04 g | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)CC(=O)O)C | C32H26N2O3
reactant | benzyl bromide | 0.8 mmol, 0.12 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 1 mmol, 0.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[4-({[3-(3-BENZOYL-8-METHYLQUINOLIN-4-YL)PHENYL]AMINO}METHYL)PHENYL]-3-PHENYLPROPANOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)C(C(=O)O)CC1=CC=CC=C1)C | C39H32N2O3
